US04407806
50.0 gms of phenyl-3-pyridyl ketone was added to 650 ml of methanol and the system was then cooled to 0° to 5° C. After cooling, 15.5 gms of sodium borohydride was added in 3 parts. After addition, the system was allowed to come to room temperature. The system was then refluxed for 1 hour and stirred for an additional 72 hours at room temperature. The methanol was removed by stripping. Afterwards, 575 ml of 5% HCl solution was added to the residue and the system refluxed for 15 minutes. The acid was neutralized with 50% NaOH solution and the product extracted with methylene chloride to give the 3-pyridylphenylcarbinol as a white solid, m.p. 53° to 60° C.

reactant | phenyl-3-pyridyl ketone | 50.0 gms | C1(=CC=CC=C1)C(=O)C=1C=NC=CC1 | C12H9NO
reactant | sodium borohydride | 15.5 gms | [BH4-].[Na+]
solvent | methanol | 650 ml | CO | CH4O
product | 3-pyridylphenylcarbinol | N1=CC(=CC=C1)C(O)C1=CC=CC=C1 | C12H11NO
